US06627755B1
To a well stirred mixture of sodium periodate (1.76 g, 8.26 mmol) in pH 7 buffer (10 mL) and tetrahydrofuran (15 mL) was added 6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-3-(2-methyl-pyridin-3-yl)-quinazolin-4-one (0.69 g, 2.12 mmol) all at once. The mixture warmed slightly to the touch and was stirred for 1 hour at ambient temperature. The reaction was concentrated at reduced pressure and the residue treated with a 1:2 mixture of water and chloroform. The tan solid was collected, washed well with water and chloroform and dried under a stream of nitrogen to afford 0.50 g (80%) of 6-fluoro-3,4-dihydro-3-(2-methyl-pyridin-3-yl)-quinazolin-4-one-2-carboxaldehyde as a 1:1 mixture of free aldehyde and hydrate which had: mp 175-177° C.; 1H NMR δ 9.46 (s, 0.5H) [CHO], 8.53 (br s, 1H), 8.10-8.07 (s, 0.5H), 7.94-7.70 (m, 3.5H), 7.39-7.32 (m, 1H), 6.59 (br s, 0.5H) [hydrate OH], 6.47 (br s, 0.5H) [hydrate OH], 5.17 (s, 0.5H) [hydrate methine CH], 2.20 (s, 3H); APCI MS m/z=284.1 (P+1).

reactant | sodium periodate | 8.26 mmol, 1.76 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-3-(2-methyl-pyridin-3-yl)-quinazolin-4-one | 2.12 mmol, 0.69 g | FC=1C=C2C(N(C(=NC2=CC1)C=CN(C)C)C=1C(=NC=CC1)C)=O | C18H17FN4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6-fluoro-3,4-dihydro-3-(2-methyl-pyridin-3-yl)-quinazolin-4-one-2-carboxaldehyde | 0.50 g, 80% | FC=1C=C2C(N(C(=NC2=CC1)C=O)C=1C(=NC=CC1)C)=O | C15H10FN3O2
